US08604061B2
b) (S)-2-Amino-4-(2-chloro-phenyl)-2-methyl-butyric acid methyl ester
To a solution of (2S,5R)-2-[2-(2-chloro-phenyl)-ethyl]-5-isopropyl-3,6-dimethoxy-2-methyl-2,5-dihydro-pyrazine (1.22 g, 3.62 mmol) in acetonitrile (12 ml) were added water (4 ml) and trifluoroacetic acid (2 ml). The mixture was stirred overnight at 40° C. Saturated ammonium chloride solution was added and the mixture was extracted with dichloromethane three times. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (SiO2, EtOAc/MeOH=95:5 to yield a colorless oil, (0.46 g, 52%); MS (ISP): 242.1; 244.1 ((M+H)+.).

reactant | (2S,5R)-2-[2-(2-chloro-phenyl)-ethyl]-5-isopropyl-3,6-dimethoxy-2-methyl-2,5-dihydro-pyrazine | 3.62 mmol, 1.22 g | ClC1=C(C=CC=C1)CC[C@@]1(N=C([C@H](N=C1OC)C(C)C)OC)C | C18H25ClN2O2
reactant | water | 4 ml | O | H2O
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | (S)-2-Amino-4-(2-chloro-phenyl)-2-methyl-butyric acid methyl ester | COC([C@@](CCC1=C(C=CC=C1)Cl)(C)N)=O | C12H16ClNO2
